US09163033B2
2-bromo-2-methyl-N-(phenylmethyl)propanamide:
Prepared in 91% yield (10.7 g, 42 mmol) from the reaction of 2-bromo-2-methylpropanoyl bromide (10.6 g, 46 mmol) with benzylamine (5.1 mL, 46 mmol) via general procedure A. Rf=0.84 (3:1, hexanes:EtOAc); mp 73.4-75.5° C.; 1H NMR (400 MHz, CDCl3): δ 7.41-7.23 (m, 1H), 7.03 (br s, 1H), 4.46 (d, J=5.8 Hz, 1H), and 1.99 (s, 1H); 13C NMR (125 MHz, CDCl3): δ 172.0, 137.8, 128.8, 127.6, 127.6, 62.8, 44.4, and 32.6; IR (neat) 3291 (br), 3065, 301, 3008, 2938, 2919, 1642 (s), 1533 cm-1; HRMS (ESI) calculated 256.0332 C11H15BrNO [M+H]+, observed 256.0329.

reactant | 2-bromo-2-methylpropanoyl bromide | 46 mmol, 10.6 g | BrC(C(=O)Br)(C)C | C4H6Br2O
reactant | benzylamine | 46 mmol, 5.1 mL | C(C1=CC=CC=C1)N | C7H9N
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-bromo-2-methyl-N-(phenylmethyl)propanamide | 91% yield | BrC(C(=O)NCC1=CC=CC=C1)(C)C | C11H14BrNO
